US09061997B2
I.A. tert-Butyl 4-(1-hexyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxamido)benzoate (compound 6)
Ethyl 1-hexyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxylate (159 mg, 0.5 mmol) and tert-butyl 4-aminobenzoate (193 mg, 1 mmol) are suspended in anhydrous toluene (4 ml) and are microwave-heated with the container open (the parameters are the following: power=200 W, temperature=120° C., execution time=7 min, hold time=10 min).

reactant | Ethyl 1-hexyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxylate | 0.5 mmol, 159 mg | C(CCCCC)N1C(C(=C(C2=CC=CC=C12)O)C(=O)OCC)=O | C18H23NO4
reactant | tert-butyl 4-aminobenzoate | 1 mmol, 193 mg | NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 4-(1-hexyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxamido)benzoate | C(CCCCC)N1C(C(=C(C2=CC=CC=C12)O)C(=O)NC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C27H32N2O5
